### PR TITLE
[Merged by Bors] - feat(RingTheory): `IsAdicComplete I R ↔ CompleteSpace R ∧ T2Space R`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/FilterBasis.lean [hunk 1]
```diff
@@ -206,6 +206,20 @@ instance (priority := 100) isTopologicalGroup (B : GroupFilterBasis G) :
     intro U U_in
     exact conj x₀ U_in
 
+@[to_additive]
+lemma t2Space_iff [TopologicalSpace G] (F : GroupFilterBasis G)
+    (hG : F.topology = ‹_›) : T2Space G ↔ ⋂₀ F.sets = {1} := by
```
Comment (alreadydone) [inline Mathlib/Topology/Algebra/FilterBasis.lean]: Maybe this is clearer (same below)
```suggestion
lemma t2Space_iff [t : TopologicalSpace G] (F : GroupFilterBasis G)
    (hG : F.topology = t) : T2Space G ↔ ⋂₀ F.sets = {1} := by
```

**Review by alreadydone — APPROVED** [review]
Thanks 🎉
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
